### PR TITLE
Proof of continuous_bilinear 

### PR DESCRIPTION
**Pull request by Louis-Le-Grand**
Proof of continuous_bilinear under the conditions that the modules  ``A M`` and ``A N`` are free and finite. For this we added:

- def LinearMap.smul₁ /.smul₂ the definition of left and right scalar multiplication
- instance Module.instContinuousSMul show scalar multiplicationis Continuous
- def LinearMap.prodfst /.prodsnd the definition of the projection of the product space on its components
- instance Module.instCommAdd show addition is commutative
- def LinearMap.basis₁ representation of object by there basis
- lemma continuous_bilinear

### CODE REVIEW

File: FLT/HIMExperiments/module_topology.lean [hunk 1]
```diff
@@ -206,13 +203,159 @@ noncomputable def LinearMap.neg (M : Type*) [AddCommGroup M] [Module A M] :
...
+
+-- I assume this is true! Lots of things like this seem to be true.
+lemma Module.continuous_bilinear {P : Type*} [AddCommGroup P] [Module A P] [Module.Finite A P] [Module.Free A P]
+    (f : M →ₗ[A] N →ₗ[A] P) :
+    @Continuous (M × N) P (Module.topology A) (Module.topology A) (fun mn ↦ f mn.1 mn.2) := by
+  let ι := Free.ChooseBasisIndex A M
+  let κ := Free.ChooseBasisIndex A N
+  have b : Basis ι A M := by --how can I name the index ι without doing all this?
+    simp only [ι]
+    exact Free.chooseBasis A M
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:311]:
```suggestion
  have b : Basis ι A M := Free.chooseBasis A M
```
and next line too

File: FLT/HIMExperiments/module_topology.lean [hunk 2]
```diff
@@ -206,13 +203,159 @@ noncomputable def LinearMap.neg (M : Type*) [AddCommGroup M] [Module A M] :
...
+    exact Free.chooseBasis A N
+  rw [← prod_canonical]
+  have : (fun (mn : M × N) ↦ (f mn.1) mn.2) =
+    (fun (mn : M × N) ↦  (∑ k : κ, (∑ i : ι, d.equivFun mn.2 k • b.equivFun mn.1 i • f (b i)) (d k))) := by
+    ext ⟨x, y⟩
+    simp only
+    calc
+      (f x) y = (f (∑ i : ι, b.equivFun x i • b i)) (∑ k : κ, d.equivFun y k • d k) := by
+        rw [Basis.sum_equivFun, Basis.sum_equivFun]
+      _ = ∑ k : κ, (∑ i : ι, d.equivFun y k • b.equivFun x i • f (b i)) (d k) := by simp [Finset.smul_sum]
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:323]: I feel like something should have been factored out here. For example in the commented-out `LinearMap.continuous_on_prod` I used `LinearMap.pi_apply_eq_sum_univ`, I feel like there's some analogue for prod's.

File: FLT/HIMExperiments/module_topology.lean [hunk 3]
```diff
@@ -206,13 +203,159 @@ noncomputable def LinearMap.neg (M : Type*) [AddCommGroup M] [Module A M] :
...
+  rw [this]
+  nth_rewrite 2 [Module.topology_self A]
+  apply Module.continuous_linear A (LinearMap.basis₁ A M ι b i)
+
+
+
+-- I assume this is true! Lots of things like this seem to be true.
+lemma Module.continuous_bilinear {P : Type*} [AddCommGroup P] [Module A P] [Module.Finite A P] [Module.Free A P]
+    (f : M →ₗ[A] N →ₗ[A] P) :
+    @Continuous (M × N) P (Module.topology A) (Module.topology A) (fun mn ↦ f mn.1 mn.2) := by
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:306]:
```suggestion
    let _τMN : TopologicalSpace (M × N) := Module.topology A
    let _τP : TopologicalSpace P := Module.topology A
    Continuous (fun mn ↦ f mn.1 mn.2 : M × N → P) := by
```

File: FLT/HIMExperiments/module_topology.lean [hunk 4]
```diff
@@ -206,13 +203,159 @@ noncomputable def LinearMap.neg (M : Type*) [AddCommGroup M] [Module A M] :
...
+  let κ := Free.ChooseBasisIndex A N
+  have b : Basis ι A M := by --how can I name the index ι without doing all this?
+    simp only [ι]
+    exact Free.chooseBasis A M
+  have d : Basis κ A N := by
+    simp only [κ]
+    exact Free.chooseBasis A N
+  rw [← prod_canonical]
+  have : (fun (mn : M × N) ↦ (f mn.1) mn.2) =
+    (fun (mn : M × N) ↦  (∑ k : κ, (∑ i : ι, d.equivFun mn.2 k • b.equivFun mn.1 i • f (b i)) (d k))) := by
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:317]:
```suggestion
    (fun (mn : M × N) ↦ (∑ k : κ, (∑ i : ι, d.repr mn.2 k • b.repr mn.1 i • f (b i)) (d k))) := by
```
I think all the equivFuns should be changed to reprs throughout the entire proof. `simp` is going to do that anyway the moment you give it the chance. Don't fight the simplifier.

File: FLT/HIMExperiments/module_topology.lean [hunk 5]
```diff
@@ -206,13 +203,159 @@ noncomputable def LinearMap.neg (M : Type*) [AddCommGroup M] [Module A M] :
...
+    ext ⟨x, y⟩
+    simp only
+    calc
+      (f x) y = (f (∑ i : ι, b.equivFun x i • b i)) (∑ k : κ, d.equivFun y k • d k) := by
+        rw [Basis.sum_equivFun, Basis.sum_equivFun]
+      _ = ∑ k : κ, (∑ i : ι, d.equivFun y k • b.equivFun x i • f (b i)) (d k) := by simp [Finset.smul_sum]
+  rw [this]
+  apply @continuous_finset_sum _ _ _ (@instTopologicalSpaceProd _  _ (topology A) (topology A))
+    (topology A) _ _ _ Finset.univ
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:326]:
```suggestion
  let _τM : TopologicalSpace M := Module.topology A
  let _τN : TopologicalSpace N := Module.topology A
  let _τP : TopologicalSpace P := Module.topology A
  apply continuous_finset_sum
```

File: FLT/HIMExperiments/module_topology.lean [hunk 6]
```diff
@@ -206,13 +203,159 @@ noncomputable def LinearMap.neg (M : Type*) [AddCommGroup M] [Module A M] :
...
+  intro k _
+  have : (fun (a : M × N) ↦ (∑ i : ι, d.equivFun a.2 k • b.equivFun a.1 i • f (b i)) (d k)) =
+    fun (a : M × N) ↦ ∑ i : ι, ((d.equivFun a.2 k • b.equivFun a.1 i • f (b i)) (d k)) := by
+    simp
+  rw [this]
+  apply @continuous_finset_sum _ _ _ (@instTopologicalSpaceProd _  _ (topology A) (topology A))
+    (topology A) _ _ _ Finset.univ
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:333]:
```suggestion
  apply continuous_finset_sum
```

File: FLT/HIMExperiments/module_topology.lean [hunk 7]
```diff
@@ -206,13 +203,159 @@ noncomputable def LinearMap.neg (M : Type*) [AddCommGroup M] [Module A M] :
...
+  intro i _
+  apply @Continuous.smul _ _ _ (topology A) (topology A) (@instTopologicalSpaceProd _ _ (topology A) (topology A)) _ (@Module.instContinuousSMul _ _ iA _ _ _ _ _ _ ) _ _
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:335]: You could do it like this:
```suggestion
  intro i _
  convert Continuous.smul ?_ ?_
  · exact Module.topology A
  · infer_instance
```
In general I think @s are a code smell, but I agree that this is pretty hairy.

File: FLT/HIMExperiments/module_topology.lean [hunk 8]
```diff
@@ -206,13 +203,159 @@ noncomputable def LinearMap.neg (M : Type*) [AddCommGroup M] [Module A M] :
...
+  · have : (fun (x : M × N) ↦ d.equivFun x.2 k) = (LinearMap.basis₁ A N κ d k) ∘ Prod.snd := by
+      ext
+      unfold LinearMap.basis₁
+      simp
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:339]:
```suggestion
      simp [LinearMap.basis₁]
```
Unfolding is one of `simp`s jobs. This occurs at least once more later on.

File: FLT/HIMExperiments/module_topology.lean [hunk 9]
```diff
@@ -206,13 +203,159 @@ noncomputable def LinearMap.neg (M : Type*) [AddCommGroup M] [Module A M] :
...
+    rw [this, ← Module.topology_self]
+    apply @Continuous.comp _ _ _ (@instTopologicalSpaceProd _ _ (topology A) (topology A)) (topology A) _ _ _
+    · nth_rewrite 2 [Module.topology_self A]
+      apply Module.continuous_linear A (LinearMap.basis₁ A N κ d k)
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:343]:
```suggestion
    apply Continuous.comp
    · nth_rewrite 1 [Module.topology_self A]
      apply Module.continuous_linear A (LinearMap.basis₁ A N κ d k)
```

File: FLT/HIMExperiments/module_topology.lean [hunk 10]
```diff
@@ -206,13 +203,159 @@ noncomputable def LinearMap.neg (M : Type*) [AddCommGroup M] [Module A M] :
...
+      ext
+      unfold LinearMap.basis₁
+      simp
+    rw [this, ← Module.topology_self]
+    apply @Continuous.comp _ _ _ (@instTopologicalSpaceProd _ _ (topology A) (topology A)) (topology A) _ _ _
+    · nth_rewrite 2 [Module.topology_self A]
+      apply Module.continuous_linear A (LinearMap.basis₁ A M ι b i)
+    rw [Module.prod_canonical]
+    exact Module.continuous_linear A (LinearMap.prodfst A M N)
+  · apply @continuous_const _ _ (@instTopologicalSpaceProd _ _ (topology A) (topology A)) (topology A) _
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:357]:
```suggestion
    apply Continuous.comp
    · nth_rewrite 1 [Module.topology_self A]
      apply Module.continuous_linear A (LinearMap.basis₁ A M ι b i)
    rw [Module.prod_canonical]
    exact Module.continuous_linear A (LinearMap.prodfst A M N)
  · apply continuous_const
```

**Review by kbuzzard — COMMENTED** [review]
I didn't read the first big proof yet; I was hoping that it somehow wouldn't be necessary, but maybe it is. The issue seems to be that you want to consider two topologies on A even though they're the same :-/

File: FLT/HIMExperiments/module_topology.lean [hunk 11]
```diff
@@ -206,13 +203,159 @@ noncomputable def LinearMap.neg (M : Type*) [AddCommGroup M] [Module A M] :
   map_add' := neg_add
   map_smul' r m := (smul_neg r m).symm
 
+/-- Scalar multiplication in the second variable as a linear map. -/
+noncomputable def LinearMap.smul₂ (M : Type*) [AddCommGroup M] [Module A M] (a : A):
```
[the remark this answers is not in the document]
Comment (kbuzzard) [reply FLT/HIMExperiments/module_topology.lean:207]: Actually we have this: it's 
```
noncomputable def LinearMap.smul₂ (M : Type*) [AddCommGroup M] [Module A M] (a : A):
    M →ₗ[A] M := Algebra.lsmul A A M a
```
Furthermore, you don't ever seem to use it so probably you should delete it.

Can you also get the next example using only things we have? [I don't know]

File: FLT/HIMExperiments/module_topology.lean [hunk 12]
```diff
@@ -206,13 +203,159 @@ noncomputable def LinearMap.neg (M : Type*) [AddCommGroup M] [Module A M] :
...
+  map_smul' r m := by
+    simp
+    rw [@smul_algebra_smul_comm]
+
+/-- Scalar multiplication in the first variable as a linear map. -/
+noncomputable def LinearMap.smul₁ (M : Type*) [AddCommGroup M] [Module A M] (m : M):
+    A →ₗ[A] M where
+  toFun a := a • m
+  map_add' := by simp [add_smul]
+  map_smul' r n := by simp [mul_smul]
```
[the remark this answers is not in the document]
Comment (Louis-Le-Grand) [reply FLT/HIMExperiments/module_topology.lean:220]: I changed them, thanks for the tip

File: FLT/HIMExperiments/module_topology.lean [hunk 13]
```diff
@@ -213,6 +216,111 @@ noncomputable def LinearMap.add (M : Type*) [AddCommGroup M] [Module A M] :
...
+  apply @ContinuousAdd.mk _ (topology A)
+  rw [Module.prod_canonical A]
+  exact Module.continuous_linear A (LinearMap.add A P)
+
+variable [Module.Finite A M] [Module.Free A M] [Module.Finite A N] [Module.Free A N]
+
+
+-- I really shouldn't start with iA instead of topology A here.
+-- But I need it like this in the next proof and don't know how to rewrite it there
+-- Sorry for leaving it like this...
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:250]: Is this still relevant?

File: FLT/HIMExperiments/module_topology.lean [hunk 14]
```diff
@@ -145,29 +146,37 @@ example (ι : Type*) [Finite ι] :
...
+
+lemma LinearMap.continuous_on_prod (f : (M × N) →ₗ[A] A) :
+    @Continuous _ _ (@instTopologicalSpaceProd M N (Module.topology A) (Module.topology A)) _ f := by
+  let _τM : TopologicalSpace M := Module.topology A
+  let _τN : TopologicalSpace N := Module.topology A
+  suffices Continuous fun (⟨m, n⟩ : M × N) ↦ f (⟨m, 0⟩) + f (⟨0, n⟩) by
+    convert this
+    simp_rw [← LinearMap.map_add, Prod.mk_add_mk, add_zero, zero_add]
+  apply Continuous.add
+  . apply @Continuous.fst' _ _ _ _ _ _ (fun m ↦ f (m, 0))
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:170]:
```suggestion
  . refine Continuous.fst' (?_ : Continuous fun m ↦ f (m, 0))
```
Avoid @s if possible

File: FLT/HIMExperiments/module_topology.lean [hunk 15]
```diff
@@ -145,29 +146,37 @@ example (ι : Type*) [Finite ι] :
...
+    exact Module.continuous_linear_to_ring A
+      ({toFun := fun m ↦ f (m, 0),
+        map_add' := by {intro x y; rw [← LinearMap.map_add, Prod.mk_add_mk, zero_add]},
+        map_smul' := by {intro m x; rw [← LinearMap.map_smul, RingHom.id_apply, Prod.smul_mk, smul_zero]}})
+  . apply @Continuous.snd' _ _ _ _ _ _ (fun n ↦ f (0, n))
+    exact Module.continuous_linear_to_ring A
+      ({toFun := fun n ↦ f (0, n),
+        map_add' := by {intro x y; rw [← LinearMap.map_add, Prod.mk_add_mk, add_zero]},
+        map_smul' := by {intro m x; rw [← LinearMap.map_smul, RingHom.id_apply, Prod.smul_mk, smul_zero]}})
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:179]:
```suggestion
        map_smul' := by 
          intro m x; rw [← LinearMap.map_smul, RingHom.id_apply, Prod.smul_mk, smul_zero]})
```
Here and below can you stick to <= 100 chars in a line? (the grey line in VS Code shows you where to stop)

File: FLT/HIMExperiments/module_topology.lean [hunk 16]
```diff
@@ -213,6 +216,111 @@ noncomputable def LinearMap.add (M : Type*) [AddCommGroup M] [Module A M] :
   map_add' _ _ := add_add_add_comm _ _ _ _
   map_smul' _ _ := (DistribSMul.smul_add _ _ _).symm
 
+/-- Basis.repr in the first variable as a linear map. -/
+noncomputable def LinearMap.basis₁ (M : Type*) (ι : Type*) [Finite ι] [AddCommGroup M] [Module A M]
+  (b : Basis ι A M) (i : ι): M →ₗ[A] A where
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:221]:
```suggestion
    (b : Basis ι A M) (i : ι) : M →ₗ[A] A where
```
Everything before `where` or `:=` needs to be indented 4 spaces if you go beyond 1 line. Also in the next three declarations.

File: FLT/HIMExperiments/module_topology.lean [hunk 17]
```diff
@@ -213,6 +216,111 @@ noncomputable def LinearMap.add (M : Type*) [AddCommGroup M] [Module A M] :
...
+  [Module A N] : M × N →ₗ[A] N where
+  toFun := Prod.snd
+  map_add' _ _ := rfl
+  map_smul' _ _:= rfl
+
+instance Module.instCommAdd {P : Type*} [AddCommGroup P] [Module A P]:
+@ContinuousAdd P (Module.topology A) _ := by
+  apply @ContinuousAdd.mk _ (topology A)
+  rw [Module.prod_canonical A]
+  exact Module.continuous_linear A (LinearMap.add A P)
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:243]:
```suggestion
  rw [prod_canonical A]
  exact continuous_linear A (LinearMap.add A P)
```
The name of the declaration is `Module.something` and this automatically opens the `Module` namespace during the declaration.

File: FLT/HIMExperiments/module_topology.lean [hunk 18]
```diff
@@ -213,6 +216,111 @@ noncomputable def LinearMap.add (M : Type*) [AddCommGroup M] [Module A M] :
...
+-- But I need it like this in the next proof and don't know how to rewrite it there
+-- Sorry for leaving it like this...
+instance Module.instContinuousSMul : @ContinuousSMul A M _ _ (topology A) := by
+  let _τM : TopologicalSpace M := Module.topology A
+  apply @ContinuousSMul.mk A M _ _ (topology A)
+  let ι := Free.ChooseBasisIndex A M
+  have b : Basis ι A M := Free.chooseBasis A M
+  suffices Continuous fun (p : A × M) ↦ ∑ i : ι, p.1 • b.repr p.2 i • b i by
+    convert this using 1
+    simp_rw [← Finset.smul_sum, Basis.sum_repr]
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:258]:
```suggestion
    simpa [← Finset.smul_sum, Basis.sum_repr]
```
Avoid `convert` if you can, it's quite fragile. `simpa` is great for this. It simplifies the goal and `this` and then tries to prove the goal with `exact this`.

File: FLT/HIMExperiments/module_topology.lean [hunk 19]
```diff
@@ -213,6 +216,111 @@ noncomputable def LinearMap.add (M : Type*) [AddCommGroup M] [Module A M] :
...
+  simp_rw [← mul_smul]
+  suffices Continuous ((fun (a : A) ↦ a • b i) ∘ (fun (m : A × A) ↦ m.1 * m.2)
+    ∘ (fun (m : A × M) ↦ (m.1, b.repr m.2 i))) from this
+  apply Continuous.comp
+  · exact Module.continuous_linear_from_ring A ((LinearMap.lsmul A M).flip (b i))
+  apply Continuous.comp
+  · exact continuous_mul
+  · apply @Continuous.prod_map _ _ _ _ _ _ _ (topology A) (fun m ↦ m) (fun m ↦ b.repr m i)
+    exact continuous_id
+    exact Module.continuous_linear_to_ring A (LinearMap.basis₁ A M ι b i)
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:270]: The `continuity` tactic should perhaps be doing that job for you, but maybe it doesn't because it doesn't know about `Module.continuous_linear_to_ring` and there's maybe a way to teach it to the tactic? Or maybe it's hopeless because of the multiple topologies (although you could have declared them earlier in the proof perhaps).

File: FLT/HIMExperiments/module_topology.lean [hunk 20]
```diff
@@ -213,6 +216,111 @@ noncomputable def LinearMap.add (M : Type*) [AddCommGroup M] [Module A M] :
...
+    ext mn
+    rw [← Basis.sum_repr b mn.1, ← Basis.sum_repr d mn.2]
+    simp only [map_sum, LinearMapClass.map_smul, LinearMap.coeFn_sum, Finset.sum_apply,
+      LinearMap.smul_apply, Finset.smul_sum, Basis.repr_self, Finsupp.smul_single, smul_eq_mul,
+      mul_one, Finsupp.univ_sum_single]
+  apply continuous_finset_sum
+  intro k _
+  suffices Continuous fun (a : M × N) ↦ ∑ i : ι, ((d.repr a.2 k • b.repr a.1 i • f (b i)) (d k)) by
+    convert this using 1
+    simp only [LinearMap.coeFn_sum, Finset.sum_apply, LinearMap.smul_apply]
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:289]:
```suggestion
    simpa [LinearMap.coeFn_sum, Finset.sum_apply, LinearMap.smul_apply]
```

File: FLT/HIMExperiments/module_topology.lean [hunk 21]
```diff
@@ -213,6 +216,111 @@ noncomputable def LinearMap.add (M : Type*) [AddCommGroup M] [Module A M] :
...
+  let _τN : TopologicalSpace N := Module.topology A
+  let _τP : TopologicalSpace P := Module.topology A
+  have b : Basis ι A M := Free.chooseBasis A M
+  have d : Basis κ A N := Free.chooseBasis A N
+  rw [← prod_canonical]
+  apply Module.bilinear_continuous_of_continuous_on_basis A b d f
+  intro k i
+  convert Continuous.smul ?_ ?_
+  · exact iA
+  · infer_instance
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:312]:
```suggestion
  apply Continuous.smul ?_ ?_
```
You don't need the `convert` or the `iA` :-)

**Review by kbuzzard — COMMENTED** [review]
This is looking great now! Well done! Tidy up any final bits, deal with the comments and I'll merge.

File: FLT/HIMExperiments/module_topology.lean (hunk 13 above)
Comment (Louis-Le-Grand) [reply FLT/HIMExperiments/module_topology.lean:250]: Nope just old

File: FLT/HIMExperiments/module_topology.lean (hunk 19 above)
Comment (Louis-Le-Grand) [reply FLT/HIMExperiments/module_topology.lean:269]: I tried `continuity` and it did not do anything.

File: FLT/HIMExperiments/module_topology.lean [hunk 22]
```diff
@@ -213,6 +216,105 @@ noncomputable def LinearMap.add (M : Type*) [AddCommGroup M] [Module A M] :
   map_add' _ _ := add_add_add_comm _ _ _ _
   map_smul' _ _ := (DistribSMul.smul_add _ _ _).symm
 
+/-- Basis.repr in the first variable as a linear map. -/
+noncomputable def LinearMap.basis₁ (M : Type*) (ι : Type*) [Finite ι] [AddCommGroup M] [Module A M]
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:220]: This is `b.coord i` so we don't need a new definition.

File: FLT/HIMExperiments/module_topology.lean [hunk 23]
```diff
@@ -213,6 +216,105 @@ noncomputable def LinearMap.add (M : Type*) [AddCommGroup M] [Module A M] :
...
+    (b : Basis ι A M) (i : ι) : M →ₗ[A] A where
+  toFun m := b.repr m i
+  map_add' := by simp only [map_add, Finsupp.coe_add, Pi.add_apply, implies_true]
+  map_smul' _ _  := by simp only [LinearMapClass.map_smul, Finsupp.coe_smul, Pi.smul_apply,
+    smul_eq_mul, RingHom.id_apply]
+
+noncomputable def LinearMap.prodfst (M N : Type*) [AddCommGroup M] [Module A M] [AddCommGroup N]
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:227]: This is `LinearMap.fst`

File: FLT/HIMExperiments/module_topology.lean [hunk 24]
```diff
@@ -213,6 +216,105 @@ noncomputable def LinearMap.add (M : Type*) [AddCommGroup M] [Module A M] :
...
+  [Module A N] : M × N →ₗ[A] M where
+  toFun := Prod.fst
+  map_add' _ _ := rfl
+  map_smul' _ _ := rfl
+
+noncomputable def LinearMap.prodsnd (M N : Type*) [AddCommGroup M] [Module A M] [AddCommGroup N]
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:233]: This is `LinearMap.snd`

File: FLT/HIMExperiments/module_topology.lean [hunk 25]
```diff
@@ -213,6 +216,105 @@ noncomputable def LinearMap.add (M : Type*) [AddCommGroup M] [Module A M] :
...
+  map_smul' _ _:= rfl
+
+instance Module.instCommAdd {P : Type*} [AddCommGroup P] [Module A P]:
+@ContinuousAdd P (Module.topology A) _ := by
+  apply @ContinuousAdd.mk _ (topology A)
+  rw [prod_canonical A]
+  exact continuous_linear A (LinearMap.add A P)
+
+variable [Module.Finite A M] [Module.Free A M] [Module.Finite A N] [Module.Free A N]
+
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:246]:
```suggestion
```

File: FLT/HIMExperiments/module_topology.lean [hunk 26]
```diff
@@ -213,6 +216,105 @@ noncomputable def LinearMap.add (M : Type*) [AddCommGroup M] [Module A M] :
...
+      mul_one, Finsupp.univ_sum_single]
+  apply continuous_finset_sum
+  intro k _
+  suffices Continuous fun (a : M × N) ↦ ∑ i : ι, ((d.repr a.2 k • b.repr a.1 i • f (b i)) (d k)) by
+    simpa [LinearMap.coeFn_sum, Finset.sum_apply, LinearMap.smul_apply]
+  apply continuous_finset_sum
+  intro i _
+  exact contonbasis k i
+
+-- I assume this is true! Lots of things like this seem to be true.
```
Comment (kbuzzard) [inline FLT/HIMExperiments/module_topology.lean:290]:
```suggestion
```

**Review by kbuzzard — COMMENTED** [review]
We definitely don't want definitions which are already there, hopefully you can use what we have.

File: FLT/HIMExperiments/module_topology.lean (hunk 22 above)
Comment (scholzhannah) [reply FLT/HIMExperiments/module_topology.lean]: Oh, thanks! I was trying to find the way to construct this map

**Comment by kbuzzard** [comment]
One last thing: I am beginning to understand now that some results are true without assuming commutativity. Perhaps you should have a `Ring` section of the file where all the theorems that work fine without commutativity are proved in the correct generality, and then a `CommRing` section where the proofs which need commutativity go. So you'd have variables in each section, or you have some convention that all commutative top rings are called A and all noncommutative ones are called B or whatever.

**Review by kbuzzard — APPROVED** [review]
Thanks a lot!
